US09079878B2
2-Oxo-2-[4-(trifluoromethyl)phenyl]ethyl 2-(3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)propanoate
2-(3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)propanoic acid (Preparation 28, 1.5 g, 5.37 mmol) and triethylamine (1.12 mL, 8.06 mmol) were stirred in ethyl acetate (50 mL). 2-Bromo-1-[4-(trifluoromethyl)phenyl]ethanone (1.51 g, 5.64 mmol) was added and the reaction was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with brine. The organic layer was separated, dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography to afford the title compound as an oil (2.19 g, 88%).

reactant | 2-(3-{[(Benzyloxy)carbonyl]amino}oxetan-3-yl)propanoic acid | 5.37 mmol, 1.5 g | C(C1=CC=CC=C1)OC(=O)NC1(COC1)C(C(=O)O)C | C14H17NO5
reactant | triethylamine | 8.06 mmol, 1.12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-Bromo-1-[4-(trifluoromethyl)phenyl]ethanone | 5.64 mmol, 1.51 g | BrCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H6BrF3O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Oxo-2-[4-(trifluoromethyl)phenyl]ethyl 2-(3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)propanoate | 2.19 g, 88% | C(C1=CC=CC=C1)OC(=O)NC1(COC1)C(C(=O)OCC(C1=CC=C(C=C1)C(F)(F)F)=O)C | C23H22F3NO6
